US06150373
An ice-cooled solution of 3.3 g (12 mmol) of N-[2-(4-bromophenyl)-1,1-dimethylethyl]-acetamide in 3 ml of concentrated sulfuric acid was treated dropwise with a mixture of 3 ml of concentrated sulfuric acid and 6 ml of 90% nitric acid. After 1 hour the mixture was cautiously added to 200 ml of ice/water and the precipitated product extracted with 150 ml of dichloromethane. The organic solution was dried over magnesium sulfate, filtered and evaporated to give 3.7 g (98%) of N-[2-(4-bromo-3-nitrophenyl)-1,1-dimethyl-ethyl]acetamide as a white solid. [Mass spectrum (ESI) MH+ =315].

reactant | N-[2-(4-bromophenyl)-1,1-dimethylethyl]-acetamide | 12 mmol, 3.3 g | BrC1=CC=C(C=C1)CC(C)(C)NC(C)=O | C12H16BrNO
reactant | nitric acid | 6 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
product | N-[2-(4-bromo-3-nitrophenyl)-1,1-dimethyl-ethyl]acetamide | 3.7 g, 98% | BrC1=C(C=C(C=C1)CC(C)(C)NC(C)=O)[N+](=O)[O-] | C12H15BrN2O3
